US09403832B2
Part A. tert-butyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate
3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (10 g, 43 mmol) taken up in isopropanol. T-butylpiperazine carboxylate (9.61 g, 51.6 mmol), diisopropylethylamine (22.4 mL, 129 mmol) added and stirred at 65° C. overnight. Reaction was cooled to room temperature, diluted with water and solid product filtered off. The solid was washed with water, dried to obtain 15.84 g crude product for further reaction, as is. LRMS (ESI) m/z 382/384 [(M+H)]+, calc'd for C15H20BrN5O2: 382.2.

reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 43 mmol, 10 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | T-butylpiperazine carboxylate | 51.6 mmol, 9.61 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 129 mmol, 22.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | tert-butyl 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carboxylate | 15.84 g | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C15H20BrN5O2
